US07297704B2
8-Fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxamide (intermediate 10)
To a suspension of 8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylic acid (1.2 g, 4.8 mmol) in CH2Cl2 (20 mL) was added oxalyl chloride (0.55 mL, 6.24 mmol) and a drop of DMF. The reaction was stirred at room temperature for 30 min, then was concentrated in vacuo. The resulting residue was dissolved in acetone (30 mL) and cooled to −5° C. Conc. NH4OH (10 mL) was added quickly, resulting in a white precipitate. The suspension was stirred for 30 min, then diluted with water and filtered to afford 1.14 g (95%) of the title compound as a white solid: mp 201-202° C.; MS (−) 248 (M−H)−.

reactant | 8-fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylic acid | 4.8 mmol, 1.2 g | FC=1C=CC2=C(C3=C(S2)CCC(C3)C(=O)O)C1 | C13H11FO2S
reactant | oxalyl chloride | 6.24 mmol, 0.55 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 8-Fluoro-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxamide | 1.14 g, 95% | FC=1C=CC2=C(C3=C(S2)CCC(C3)C(=O)N)C1 | C13H12FNOS
